US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid with ethyl-pyridin-2-ylmethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=NC(=CC1)C)CC(=O)O | C18H22N2O4S
reactant | ethyl-pyridin-2-ylmethyl-amine | C(C)NCC1=NC=CC=C1 | C8H12N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC=CC=C1)CC)C=1C=NC(=CC1)C | C26H32N4O3S
